US06329528B1
D. 4-Bromo-3-methyl-2-thiophenecarbonyl chloride (Scheme III, step i)
A slurry of 1.11 g (5 mmole) of 4-bromo-3-methyl-2-thiophenecarboxylic acid, 0.44 mL (6 mmole) of thionyl chloride, 5 drops of DMF, and 10 mL of 1,2-dichloroethane was heated at 80° C. for 1.5 h. The clear solution was cooled and concentrated on a roto-evaporator. The residue was dissolved in 5 mL of 1,2-dichloroethane and reconcentrated on a roto-evaporator to give 1.2 g of a tan solid, 97% pure (GC area). This acid chloride was used without further purification.

reactant | 4-bromo-3-methyl-2-thiophenecarboxylic acid | 5 mmole, 1.11 g | BrC=1C(=C(SC1)C(=O)O)C | C6H5BrO2S
reactant | thionyl chloride | 6 mmole, 0.44 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 4-Bromo-3-methyl-2-thiophenecarbonyl chloride | 1.2 g | BrC=1C(=C(SC1)C(=O)Cl)C | C6H4BrClOS
